US04233237
(c) Synthesis of 2-[2-(2-Methoxyethoxy)-5-aminobenzenesulfonamido]-4-hexadecyloxy-5-methylphenol
32 g of 2-[2-(2-methoxyethoxy)nitrobenzenesulfonamido]-4-hexadecyloxy-5-methylphenol, 24 g of iron powder, 12 g of Fe3O4, 0.6 g of ammonium chloride and 25 ml of water were added to 300 ml of isopropyl alcohol and the mixture was refluxed in a stream bath with stirring for 1 hour. After completion of the reaction, the mixture was filtered while hot and the filtrate was cooled with ice. The crystals thus-precipitated were recovered by filtration, washed with 50 ml of isopropyl alcohol and air-dried.

reactant | 2-[2-(2-methoxyethoxy)nitrobenzenesulfonamido]-4-hexadecyloxy-5-methylphenol | 32 g | COCCOC1=C(C=CC=C1[N+](=O)[O-])S(=O)(=O)NC1=C(C=C(C(=C1)OCCCCCCCCCCCCCCCC)C)O | C32H50N2O8S
reactant | ammonium chloride | 0.6 g | [Cl-].[NH4+]
reactant | water | 25 ml | O | H2O
reactant | isopropyl alcohol | 300 ml | C(C)(C)O | C3H8O
catalyst | iron | 24 g | [Fe] | Fe
product | 2-[2-(2-Methoxyethoxy)-5-aminobenzenesulfonamido]-4-hexadecyloxy-5-methylphenol | COCCOC1=C(C=C(C=C1)N)S(=O)(=O)NC1=C(C=C(C(=C1)OCCCCCCCCCCCCCCCC)C)O | C32H52N2O6S
